US09315491B2
[2-(4-Amino-phenyl)-5-ethoxy-6-morpholin-4-yl-pyrimidin-4-yl]-methanol
NaBH4 (192 mg, 5 eq.) was added to a stirred solution of 2-(4-amino-phenyl)-5-ethoxy-6-morpholin-4-yl-pyrimidine-4-carboxylic acid ethyl ester (378 mg, 1 eq.) in EtOH (12 ml) and the mixture reacted to reflux overnight. The mixture was quenched with H2O, the solvent removed in vacuo, and the residue extracted with EA and washed with brine. The crude was purified by chromatography to give a product (267 mg, 80%).

reactant | NaBH4 | 192 mg, 5 eq. | [BH4-].[Na+]
reactant | 2-(4-amino-phenyl)-5-ethoxy-6-morpholin-4-yl-pyrimidine-4-carboxylic acid ethyl ester | 378 mg, 1 eq. | C(C)OC(=O)C1=NC(=NC(=C1OCC)N1CCOCC1)C1=CC=C(C=C1)N | C19H24N4O4
solvent | EtOH | 12 ml | CCO | C2H6O
product | [2-(4-Amino-phenyl)-5-ethoxy-6-morpholin-4-yl-pyrimidin-4-yl]-methanol | 267 mg, 80% | NC1=CC=C(C=C1)C1=NC(=C(C(=N1)CO)OCC)N1CCOCC1 | C17H22N4O3
